US05386031
Step A: Preparation of 2-Amino-4,5-dihydro-4-oxo-7-(3-thienylmethyl)-3H-pyrrolo[3,2-d]pyrimidine-6-diazonium chloride
Charged 23.4 kg (74.1 mol) of 2,6-diamino-3,5-dihydro-7-(3-thienylmethyl)-4H-pyrrolo[3,2-d]pyrimidin-4-one, hydrochloride, monohydrate (U.S. Pat. No. 4,923,872), 240 L water and 14.9 kg (147.1 mol) 36% hydrochloric acid to a nitrogen-purged 800 L reactor. The resulting slurry is cooled to 0° C. A solution of 7.9 kg (114.5 mol) sodium nitrite in 20 L water is added to the slurry over 40 minutes. The reaction mixture is heated to 20° C. and held at that temperature for 1.3 hours. The product is collected and washed with 90 n water yielding 63.5 kg of the title compound as a water wet cake.

reactant | 2,6-diamino-3,5-dihydro-7-(3-thienylmethyl)-4H-pyrrolo[3,2-d]pyrimidin-4-one, hydrochloride | 74.1 mol, 23.4 kg | Cl.NC=1NC(C2=C(N1)C(=C(N2)N)CC2=CSC=C2)=O
reactant | hydrochloric acid | 147.1 mol, 14.9 kg | Cl | ClH
reactant | sodium nitrite | 114.5 mol, 7.9 kg | N(=O)[O-].[Na+]
solvent | water | 20 L | O | H2O
solvent | water | 240 L | O | H2O
product | 2-Amino-4,5-dihydro-4-oxo-7-(3-thienylmethyl)-3H-pyrrolo[3,2-d]pyrimidine-6-diazonium chloride | [Cl-].NC=1NC(C2=C(N1)C(=C(N2)[N+]#N)CC2=CSC=C2)=O | InChI=1S/C11H8N6OS.ClH/c12-11-15-7-6(3-5-1-2-19-4-5)9(17-13)14-8(7)10(18)16-11;/h1-2,4,13H,3H2,(H2,12,16,18);1H
